* sim7_mon_fault.cir -- SIM 7i: copy of sim4_monitor_fault.cir with R30 = {R30V} (FINAL V2 value 22k 0805;
* Sim 4 used 10k 0402). Only the R30 value lines and the R30-power measurements below were changed.
.param R30V=22k
* sim4_monitor_fault.cir -- HVAWG HV-monitor (R12/RV2/U8) input-stress under faults, V1 vs V2
* Each instance is an independent copy of the monitor with its own U8 rails; all share the
* swept +HV source (VHV, 1 ohm) except the R12-bypass cases, which get their own copy (EHV*).
* U8 (NE5532) + input modelled as its protection structure: D inp->VCC, D VEE->inp,
* anti-parallel differential diodes inp<->out (enabled by DIFF=1), 100k inp->out.
* Powered: +/-12 V ideal + 1 ohm; output = follower clamped +/-10.5 V (1 ohm).
* Unpowered: each rail {RR} to GND (off bench supply + other ICs); output 1k to GND.
.param RR=1k DIFF=0
.model DCL D(Is=2.52n Rs=0.568 N=1.752)
VHV hvs 0 150
RHV hvs hv 1
.subckt U8IN inp vcc vee params: PWR=1
D1 inp vcc DCL
D2 vee inp DCL
Rio inp out 100k
Dd1 inp dd1 DCL
Dd2 out dd2 DCL
Rdd1 dd1 out {1+(1-DIFF)*1e12}
Rdd2 dd2 inp {1+(1-DIFF)*1e12}
Bo o1 0 V={PWR}*limit(V(inp),-10.5,10.5)
Ro o1 out {PWR*1+(1-PWR)*1000}
.ends
.subckt RAILP vcc vee
Vp vp 0 12
Rp vp vcc 1
Vn vn 0 -12
Rn vn vee 1
.ends
.subckt RAILU vcc vee
Rp vcc 0 {RR}
Rn vee 0 {RR}
.ends
* --- v1n_p: V1 normal, powered (RV2=1.11k)
R12_v1n_p hv tap_v1n_p 110k
Rbot_v1n_p tap_v1n_p 0 1.11k
Vi_v1n_p tap_v1n_p inp_v1n_p 0
XU_v1n_p inp_v1n_p vcc_v1n_p vee_v1n_p U8IN params: PWR=1
XR_v1n_p vcc_v1n_p vee_v1n_p RAILP
* --- v1n_u: V1 shutdown fault: +HV on, +/-12V off
R12_v1n_u hv tap_v1n_u 110k
Rbot_v1n_u tap_v1n_u 0 1.11k
Vi_v1n_u tap_v1n_u inp_v1n_u 0
XU_v1n_u inp_v1n_u vcc_v1n_u vee_v1n_u U8IN params: PWR=0
XR_v1n_u vcc_v1n_u vee_v1n_u RAILU
* --- v1w_p: V1 RV2 wiper open, powered
R12_v1w_p hv tap_v1w_p 110k
Vi_v1w_p tap_v1w_p inp_v1w_p 0
XU_v1w_p inp_v1w_p vcc_v1w_p vee_v1w_p U8IN params: PWR=1
XR_v1w_p vcc_v1w_p vee_v1w_p RAILP
* --- v1w_u: V1 RV2 wiper open, unpowered
R12_v1w_u hv tap_v1w_u 110k
Vi_v1w_u tap_v1w_u inp_v1w_u 0
XU_v1w_u inp_v1w_u vcc_v1w_u vee_v1w_u U8IN params: PWR=0
XR_v1w_u vcc_v1w_u vee_v1w_u RAILU
* --- v1m_p: V1 RV2 at max 4.7k, powered
R12_v1m_p hv tap_v1m_p 110k
Rbot_v1m_p tap_v1m_p 0 4.7k
Vi_v1m_p tap_v1m_p inp_v1m_p 0
XU_v1m_p inp_v1m_p vcc_v1m_p vee_v1m_p U8IN params: PWR=1
XR_v1m_p vcc_v1m_p vee_v1m_p RAILP
* --- v1m_u: V1 RV2 at max 4.7k, unpowered
R12_v1m_u hv tap_v1m_u 110k
Rbot_v1m_u tap_v1m_u 0 4.7k
Vi_v1m_u tap_v1m_u inp_v1m_u 0
XU_v1m_u inp_v1m_u vcc_v1m_u vee_v1m_u U8IN params: PWR=0
XR_v1m_u vcc_v1m_u vee_v1m_u RAILU
* --- v2n_p: V2 normal, powered (RV2 290 + R27 820)
R12_v2n_p hv tap_v2n_p 110k
Rbot_v2n_p tap_v2n_p 0 1110
R30_v2n_p tap_v2n_p pin_v2n_p {R30V}
Vi_v2n_p pin_v2n_p inp_v2n_p 0
XU_v2n_p inp_v2n_p vcc_v2n_p vee_v2n_p U8IN params: PWR=1
XR_v2n_p vcc_v2n_p vee_v2n_p RAILP
* --- v2n_u: V2 shutdown fault: +HV on, +/-12V off
R12_v2n_u hv tap_v2n_u 110k
Rbot_v2n_u tap_v2n_u 0 1110
R30_v2n_u tap_v2n_u pin_v2n_u {R30V}
Vi_v2n_u pin_v2n_u inp_v2n_u 0
XU_v2n_u inp_v2n_u vcc_v2n_u vee_v2n_u U8IN params: PWR=0
XR_v2n_u vcc_v2n_u vee_v2n_u RAILU
* --- v2w_p: V2 RV2 wiper open (=RV2 max): 1k+820, powered
R12_v2w_p hv tap_v2w_p 110k
Rbot_v2w_p tap_v2w_p 0 1820
R30_v2w_p tap_v2w_p pin_v2w_p {R30V}
Vi_v2w_p pin_v2w_p inp_v2w_p 0
XU_v2w_p inp_v2w_p vcc_v2w_p vee_v2w_p U8IN params: PWR=1
XR_v2w_p vcc_v2w_p vee_v2w_p RAILP
* --- v2w_u: V2 RV2 wiper open (=RV2 max), unpowered
R12_v2w_u hv tap_v2w_u 110k
Rbot_v2w_u tap_v2w_u 0 1820
R30_v2w_u tap_v2w_u pin_v2w_u {R30V}
Vi_v2w_u pin_v2w_u inp_v2w_u 0
XU_v2w_u inp_v2w_u vcc_v2w_u vee_v2w_u U8IN params: PWR=0
XR_v2w_u vcc_v2w_u vee_v2w_u RAILU
* --- i3_p: item 3 only (1k+820 leg, no R30), wiper open, powered
R12_i3_p hv tap_i3_p 110k
Rbot_i3_p tap_i3_p 0 1820
Vi_i3_p tap_i3_p inp_i3_p 0
XU_i3_p inp_i3_p vcc_i3_p vee_i3_p U8IN params: PWR=1
XR_i3_p vcc_i3_p vee_i3_p RAILP
* --- i3_u: item 3 only, wiper open, unpowered
R12_i3_u hv tap_i3_u 110k
Rbot_i3_u tap_i3_u 0 1820
Vi_i3_u tap_i3_u inp_i3_u 0
XU_i3_u inp_i3_u vcc_i3_u vee_i3_u U8IN params: PWR=0
XR_i3_u vcc_i3_u vee_i3_u RAILU
* --- i5_p: item 5 only (R30, no bottom leg) = V2 with R27/RV2 track open, powered
R12_i5_p hv tap_i5_p 110k
R30_i5_p tap_i5_p pin_i5_p {R30V}
Vi_i5_p pin_i5_p inp_i5_p 0
XU_i5_p inp_i5_p vcc_i5_p vee_i5_p U8IN params: PWR=1
XR_i5_p vcc_i5_p vee_i5_p RAILP
* --- i5_u: item 5 only / V2 bottom leg fully open, unpowered
R12_i5_u hv tap_i5_u 110k
R30_i5_u tap_i5_u pin_i5_u {R30V}
Vi_i5_u pin_i5_u inp_i5_u 0
XU_i5_u inp_i5_u vcc_i5_u vee_i5_u U8IN params: PWR=0
XR_i5_u vcc_i5_u vee_i5_u RAILU
* --- v1b_p: V1 R12 bypassed (tap shorted to +HV), powered
Ev1b_p hvs_v1b_p 0 hvs 0 1
RSv1b_p hvs_v1b_p hv_v1b_p 1
R12_v1b_p hv_v1b_p tap_v1b_p 1   ; R12 bypassed (short)
Rbot_v1b_p tap_v1b_p 0 1.11k
Vi_v1b_p tap_v1b_p inp_v1b_p 0
XU_v1b_p inp_v1b_p vcc_v1b_p vee_v1b_p U8IN params: PWR=1
XR_v1b_p vcc_v1b_p vee_v1b_p RAILP
* --- v1b_u: V1 R12 bypassed, unpowered
Ev1b_u hvs_v1b_u 0 hvs 0 1
RSv1b_u hvs_v1b_u hv_v1b_u 1
R12_v1b_u hv_v1b_u tap_v1b_u 1   ; R12 bypassed (short)
Rbot_v1b_u tap_v1b_u 0 1.11k
Vi_v1b_u tap_v1b_u inp_v1b_u 0
XU_v1b_u inp_v1b_u vcc_v1b_u vee_v1b_u U8IN params: PWR=0
XR_v1b_u vcc_v1b_u vee_v1b_u RAILU
* --- v2b_p: V2 R12 bypassed (tap shorted to +HV), powered
Ev2b_p hvs_v2b_p 0 hvs 0 1
RSv2b_p hvs_v2b_p hv_v2b_p 1
R12_v2b_p hv_v2b_p tap_v2b_p 1   ; R12 bypassed (short)
Rbot_v2b_p tap_v2b_p 0 1110
R30_v2b_p tap_v2b_p pin_v2b_p {R30V}
Vi_v2b_p pin_v2b_p inp_v2b_p 0
XU_v2b_p inp_v2b_p vcc_v2b_p vee_v2b_p U8IN params: PWR=1
XR_v2b_p vcc_v2b_p vee_v2b_p RAILP
* --- v2b_u: V2 R12 bypassed, unpowered
Ev2b_u hvs_v2b_u 0 hvs 0 1
RSv2b_u hvs_v2b_u hv_v2b_u 1
R12_v2b_u hv_v2b_u tap_v2b_u 1   ; R12 bypassed (short)
Rbot_v2b_u tap_v2b_u 0 1110
R30_v2b_u tap_v2b_u pin_v2b_u {R30V}
Vi_v2b_u pin_v2b_u inp_v2b_u 0
XU_v2b_u inp_v2b_u vcc_v2b_u vee_v2b_u U8IN params: PWR=0
XR_v2b_u vcc_v2b_u vee_v2b_u RAILU
.dc VHV list 50 120 150
.step param DIFF list 0 1
.step param RR list 1k 10k
.meas DC v1n_p_vhv_50 FIND V(hv) AT=50
.meas DC v1n_p_vtap_50 FIND V(tap_v1n_p) AT=50
.meas DC v1n_p_vin_50 FIND V(inp_v1n_p) AT=50
.meas DC v1n_p_iin_50 FIND I(Vi_v1n_p) AT=50
.meas DC v1n_p_vcc_50 FIND V(vcc_v1n_p) AT=50
.meas DC v1n_p_vee_50 FIND V(vee_v1n_p) AT=50
.meas DC v1n_p_vhv_120 FIND V(hv) AT=120
.meas DC v1n_p_vtap_120 FIND V(tap_v1n_p) AT=120
.meas DC v1n_p_vin_120 FIND V(inp_v1n_p) AT=120
.meas DC v1n_p_iin_120 FIND I(Vi_v1n_p) AT=120
.meas DC v1n_p_vcc_120 FIND V(vcc_v1n_p) AT=120
.meas DC v1n_p_vee_120 FIND V(vee_v1n_p) AT=120
.meas DC v1n_p_vhv_150 FIND V(hv) AT=150
.meas DC v1n_p_vtap_150 FIND V(tap_v1n_p) AT=150
.meas DC v1n_p_vin_150 FIND V(inp_v1n_p) AT=150
.meas DC v1n_p_iin_150 FIND I(Vi_v1n_p) AT=150
.meas DC v1n_p_vcc_150 FIND V(vcc_v1n_p) AT=150
.meas DC v1n_p_vee_150 FIND V(vee_v1n_p) AT=150
.meas DC v1n_u_vhv_50 FIND V(hv) AT=50
.meas DC v1n_u_vtap_50 FIND V(tap_v1n_u) AT=50
.meas DC v1n_u_vin_50 FIND V(inp_v1n_u) AT=50
.meas DC v1n_u_iin_50 FIND I(Vi_v1n_u) AT=50
.meas DC v1n_u_vcc_50 FIND V(vcc_v1n_u) AT=50
.meas DC v1n_u_vee_50 FIND V(vee_v1n_u) AT=50
.meas DC v1n_u_vhv_120 FIND V(hv) AT=120
.meas DC v1n_u_vtap_120 FIND V(tap_v1n_u) AT=120
.meas DC v1n_u_vin_120 FIND V(inp_v1n_u) AT=120
.meas DC v1n_u_iin_120 FIND I(Vi_v1n_u) AT=120
.meas DC v1n_u_vcc_120 FIND V(vcc_v1n_u) AT=120
.meas DC v1n_u_vee_120 FIND V(vee_v1n_u) AT=120
.meas DC v1n_u_vhv_150 FIND V(hv) AT=150
.meas DC v1n_u_vtap_150 FIND V(tap_v1n_u) AT=150
.meas DC v1n_u_vin_150 FIND V(inp_v1n_u) AT=150
.meas DC v1n_u_iin_150 FIND I(Vi_v1n_u) AT=150
.meas DC v1n_u_vcc_150 FIND V(vcc_v1n_u) AT=150
.meas DC v1n_u_vee_150 FIND V(vee_v1n_u) AT=150
.meas DC v1w_p_vhv_50 FIND V(hv) AT=50
.meas DC v1w_p_vtap_50 FIND V(tap_v1w_p) AT=50
.meas DC v1w_p_vin_50 FIND V(inp_v1w_p) AT=50
.meas DC v1w_p_iin_50 FIND I(Vi_v1w_p) AT=50
.meas DC v1w_p_vcc_50 FIND V(vcc_v1w_p) AT=50
.meas DC v1w_p_vee_50 FIND V(vee_v1w_p) AT=50
.meas DC v1w_p_vhv_120 FIND V(hv) AT=120
.meas DC v1w_p_vtap_120 FIND V(tap_v1w_p) AT=120
.meas DC v1w_p_vin_120 FIND V(inp_v1w_p) AT=120
.meas DC v1w_p_iin_120 FIND I(Vi_v1w_p) AT=120
.meas DC v1w_p_vcc_120 FIND V(vcc_v1w_p) AT=120
.meas DC v1w_p_vee_120 FIND V(vee_v1w_p) AT=120
.meas DC v1w_p_vhv_150 FIND V(hv) AT=150
.meas DC v1w_p_vtap_150 FIND V(tap_v1w_p) AT=150
.meas DC v1w_p_vin_150 FIND V(inp_v1w_p) AT=150
.meas DC v1w_p_iin_150 FIND I(Vi_v1w_p) AT=150
.meas DC v1w_p_vcc_150 FIND V(vcc_v1w_p) AT=150
.meas DC v1w_p_vee_150 FIND V(vee_v1w_p) AT=150
.meas DC v1w_u_vhv_50 FIND V(hv) AT=50
.meas DC v1w_u_vtap_50 FIND V(tap_v1w_u) AT=50
.meas DC v1w_u_vin_50 FIND V(inp_v1w_u) AT=50
.meas DC v1w_u_iin_50 FIND I(Vi_v1w_u) AT=50
.meas DC v1w_u_vcc_50 FIND V(vcc_v1w_u) AT=50
.meas DC v1w_u_vee_50 FIND V(vee_v1w_u) AT=50
.meas DC v1w_u_vhv_120 FIND V(hv) AT=120
.meas DC v1w_u_vtap_120 FIND V(tap_v1w_u) AT=120
.meas DC v1w_u_vin_120 FIND V(inp_v1w_u) AT=120
.meas DC v1w_u_iin_120 FIND I(Vi_v1w_u) AT=120
.meas DC v1w_u_vcc_120 FIND V(vcc_v1w_u) AT=120
.meas DC v1w_u_vee_120 FIND V(vee_v1w_u) AT=120
.meas DC v1w_u_vhv_150 FIND V(hv) AT=150
.meas DC v1w_u_vtap_150 FIND V(tap_v1w_u) AT=150
.meas DC v1w_u_vin_150 FIND V(inp_v1w_u) AT=150
.meas DC v1w_u_iin_150 FIND I(Vi_v1w_u) AT=150
.meas DC v1w_u_vcc_150 FIND V(vcc_v1w_u) AT=150
.meas DC v1w_u_vee_150 FIND V(vee_v1w_u) AT=150
.meas DC v1m_p_vhv_50 FIND V(hv) AT=50
.meas DC v1m_p_vtap_50 FIND V(tap_v1m_p) AT=50
.meas DC v1m_p_vin_50 FIND V(inp_v1m_p) AT=50
.meas DC v1m_p_iin_50 FIND I(Vi_v1m_p) AT=50
.meas DC v1m_p_vcc_50 FIND V(vcc_v1m_p) AT=50
.meas DC v1m_p_vee_50 FIND V(vee_v1m_p) AT=50
.meas DC v1m_p_vhv_120 FIND V(hv) AT=120
.meas DC v1m_p_vtap_120 FIND V(tap_v1m_p) AT=120
.meas DC v1m_p_vin_120 FIND V(inp_v1m_p) AT=120
.meas DC v1m_p_iin_120 FIND I(Vi_v1m_p) AT=120
.meas DC v1m_p_vcc_120 FIND V(vcc_v1m_p) AT=120
.meas DC v1m_p_vee_120 FIND V(vee_v1m_p) AT=120
.meas DC v1m_p_vhv_150 FIND V(hv) AT=150
.meas DC v1m_p_vtap_150 FIND V(tap_v1m_p) AT=150
.meas DC v1m_p_vin_150 FIND V(inp_v1m_p) AT=150
.meas DC v1m_p_iin_150 FIND I(Vi_v1m_p) AT=150
.meas DC v1m_p_vcc_150 FIND V(vcc_v1m_p) AT=150
.meas DC v1m_p_vee_150 FIND V(vee_v1m_p) AT=150
.meas DC v1m_u_vhv_50 FIND V(hv) AT=50
.meas DC v1m_u_vtap_50 FIND V(tap_v1m_u) AT=50
.meas DC v1m_u_vin_50 FIND V(inp_v1m_u) AT=50
.meas DC v1m_u_iin_50 FIND I(Vi_v1m_u) AT=50
.meas DC v1m_u_vcc_50 FIND V(vcc_v1m_u) AT=50
.meas DC v1m_u_vee_50 FIND V(vee_v1m_u) AT=50
.meas DC v1m_u_vhv_120 FIND V(hv) AT=120
.meas DC v1m_u_vtap_120 FIND V(tap_v1m_u) AT=120
.meas DC v1m_u_vin_120 FIND V(inp_v1m_u) AT=120
.meas DC v1m_u_iin_120 FIND I(Vi_v1m_u) AT=120
.meas DC v1m_u_vcc_120 FIND V(vcc_v1m_u) AT=120
.meas DC v1m_u_vee_120 FIND V(vee_v1m_u) AT=120
.meas DC v1m_u_vhv_150 FIND V(hv) AT=150
.meas DC v1m_u_vtap_150 FIND V(tap_v1m_u) AT=150
.meas DC v1m_u_vin_150 FIND V(inp_v1m_u) AT=150
.meas DC v1m_u_iin_150 FIND I(Vi_v1m_u) AT=150
.meas DC v1m_u_vcc_150 FIND V(vcc_v1m_u) AT=150
.meas DC v1m_u_vee_150 FIND V(vee_v1m_u) AT=150
.meas DC v2n_p_vhv_50 FIND V(hv) AT=50
.meas DC v2n_p_vtap_50 FIND V(tap_v2n_p) AT=50
.meas DC v2n_p_vin_50 FIND V(inp_v2n_p) AT=50
.meas DC v2n_p_iin_50 FIND I(Vi_v2n_p) AT=50
.meas DC v2n_p_vcc_50 FIND V(vcc_v2n_p) AT=50
.meas DC v2n_p_vee_50 FIND V(vee_v2n_p) AT=50
.meas DC v2n_p_vhv_120 FIND V(hv) AT=120
.meas DC v2n_p_vtap_120 FIND V(tap_v2n_p) AT=120
.meas DC v2n_p_vin_120 FIND V(inp_v2n_p) AT=120
.meas DC v2n_p_iin_120 FIND I(Vi_v2n_p) AT=120
.meas DC v2n_p_vcc_120 FIND V(vcc_v2n_p) AT=120
.meas DC v2n_p_vee_120 FIND V(vee_v2n_p) AT=120
.meas DC v2n_p_vhv_150 FIND V(hv) AT=150
.meas DC v2n_p_vtap_150 FIND V(tap_v2n_p) AT=150
.meas DC v2n_p_vin_150 FIND V(inp_v2n_p) AT=150
.meas DC v2n_p_iin_150 FIND I(Vi_v2n_p) AT=150
.meas DC v2n_p_vcc_150 FIND V(vcc_v2n_p) AT=150
.meas DC v2n_p_vee_150 FIND V(vee_v2n_p) AT=150
.meas DC v2n_u_vhv_50 FIND V(hv) AT=50
.meas DC v2n_u_vtap_50 FIND V(tap_v2n_u) AT=50
.meas DC v2n_u_vin_50 FIND V(inp_v2n_u) AT=50
.meas DC v2n_u_iin_50 FIND I(Vi_v2n_u) AT=50
.meas DC v2n_u_vcc_50 FIND V(vcc_v2n_u) AT=50
.meas DC v2n_u_vee_50 FIND V(vee_v2n_u) AT=50
.meas DC v2n_u_vhv_120 FIND V(hv) AT=120
.meas DC v2n_u_vtap_120 FIND V(tap_v2n_u) AT=120
.meas DC v2n_u_vin_120 FIND V(inp_v2n_u) AT=120
.meas DC v2n_u_iin_120 FIND I(Vi_v2n_u) AT=120
.meas DC v2n_u_vcc_120 FIND V(vcc_v2n_u) AT=120
.meas DC v2n_u_vee_120 FIND V(vee_v2n_u) AT=120
.meas DC v2n_u_vhv_150 FIND V(hv) AT=150
.meas DC v2n_u_vtap_150 FIND V(tap_v2n_u) AT=150
.meas DC v2n_u_vin_150 FIND V(inp_v2n_u) AT=150
.meas DC v2n_u_iin_150 FIND I(Vi_v2n_u) AT=150
.meas DC v2n_u_vcc_150 FIND V(vcc_v2n_u) AT=150
.meas DC v2n_u_vee_150 FIND V(vee_v2n_u) AT=150
.meas DC v2w_p_vhv_50 FIND V(hv) AT=50
.meas DC v2w_p_vtap_50 FIND V(tap_v2w_p) AT=50
.meas DC v2w_p_vin_50 FIND V(inp_v2w_p) AT=50
.meas DC v2w_p_iin_50 FIND I(Vi_v2w_p) AT=50
.meas DC v2w_p_vcc_50 FIND V(vcc_v2w_p) AT=50
.meas DC v2w_p_vee_50 FIND V(vee_v2w_p) AT=50
.meas DC v2w_p_vhv_120 FIND V(hv) AT=120
.meas DC v2w_p_vtap_120 FIND V(tap_v2w_p) AT=120
.meas DC v2w_p_vin_120 FIND V(inp_v2w_p) AT=120
.meas DC v2w_p_iin_120 FIND I(Vi_v2w_p) AT=120
.meas DC v2w_p_vcc_120 FIND V(vcc_v2w_p) AT=120
.meas DC v2w_p_vee_120 FIND V(vee_v2w_p) AT=120
.meas DC v2w_p_vhv_150 FIND V(hv) AT=150
.meas DC v2w_p_vtap_150 FIND V(tap_v2w_p) AT=150
.meas DC v2w_p_vin_150 FIND V(inp_v2w_p) AT=150
.meas DC v2w_p_iin_150 FIND I(Vi_v2w_p) AT=150
.meas DC v2w_p_vcc_150 FIND V(vcc_v2w_p) AT=150
.meas DC v2w_p_vee_150 FIND V(vee_v2w_p) AT=150
.meas DC v2w_u_vhv_50 FIND V(hv) AT=50
.meas DC v2w_u_vtap_50 FIND V(tap_v2w_u) AT=50
.meas DC v2w_u_vin_50 FIND V(inp_v2w_u) AT=50
.meas DC v2w_u_iin_50 FIND I(Vi_v2w_u) AT=50
.meas DC v2w_u_vcc_50 FIND V(vcc_v2w_u) AT=50
.meas DC v2w_u_vee_50 FIND V(vee_v2w_u) AT=50
.meas DC v2w_u_vhv_120 FIND V(hv) AT=120
.meas DC v2w_u_vtap_120 FIND V(tap_v2w_u) AT=120
.meas DC v2w_u_vin_120 FIND V(inp_v2w_u) AT=120
.meas DC v2w_u_iin_120 FIND I(Vi_v2w_u) AT=120
.meas DC v2w_u_vcc_120 FIND V(vcc_v2w_u) AT=120
.meas DC v2w_u_vee_120 FIND V(vee_v2w_u) AT=120
.meas DC v2w_u_vhv_150 FIND V(hv) AT=150
.meas DC v2w_u_vtap_150 FIND V(tap_v2w_u) AT=150
.meas DC v2w_u_vin_150 FIND V(inp_v2w_u) AT=150
.meas DC v2w_u_iin_150 FIND I(Vi_v2w_u) AT=150
.meas DC v2w_u_vcc_150 FIND V(vcc_v2w_u) AT=150
.meas DC v2w_u_vee_150 FIND V(vee_v2w_u) AT=150
.meas DC i3_p_vhv_50 FIND V(hv) AT=50
.meas DC i3_p_vtap_50 FIND V(tap_i3_p) AT=50
.meas DC i3_p_vin_50 FIND V(inp_i3_p) AT=50
.meas DC i3_p_iin_50 FIND I(Vi_i3_p) AT=50
.meas DC i3_p_vcc_50 FIND V(vcc_i3_p) AT=50
.meas DC i3_p_vee_50 FIND V(vee_i3_p) AT=50
.meas DC i3_p_vhv_120 FIND V(hv) AT=120
.meas DC i3_p_vtap_120 FIND V(tap_i3_p) AT=120
.meas DC i3_p_vin_120 FIND V(inp_i3_p) AT=120
.meas DC i3_p_iin_120 FIND I(Vi_i3_p) AT=120
.meas DC i3_p_vcc_120 FIND V(vcc_i3_p) AT=120
.meas DC i3_p_vee_120 FIND V(vee_i3_p) AT=120
.meas DC i3_p_vhv_150 FIND V(hv) AT=150
.meas DC i3_p_vtap_150 FIND V(tap_i3_p) AT=150
.meas DC i3_p_vin_150 FIND V(inp_i3_p) AT=150
.meas DC i3_p_iin_150 FIND I(Vi_i3_p) AT=150
.meas DC i3_p_vcc_150 FIND V(vcc_i3_p) AT=150
.meas DC i3_p_vee_150 FIND V(vee_i3_p) AT=150
.meas DC i3_u_vhv_50 FIND V(hv) AT=50
.meas DC i3_u_vtap_50 FIND V(tap_i3_u) AT=50
.meas DC i3_u_vin_50 FIND V(inp_i3_u) AT=50
.meas DC i3_u_iin_50 FIND I(Vi_i3_u) AT=50
.meas DC i3_u_vcc_50 FIND V(vcc_i3_u) AT=50
.meas DC i3_u_vee_50 FIND V(vee_i3_u) AT=50
.meas DC i3_u_vhv_120 FIND V(hv) AT=120
.meas DC i3_u_vtap_120 FIND V(tap_i3_u) AT=120
.meas DC i3_u_vin_120 FIND V(inp_i3_u) AT=120
.meas DC i3_u_iin_120 FIND I(Vi_i3_u) AT=120
.meas DC i3_u_vcc_120 FIND V(vcc_i3_u) AT=120
.meas DC i3_u_vee_120 FIND V(vee_i3_u) AT=120
.meas DC i3_u_vhv_150 FIND V(hv) AT=150
.meas DC i3_u_vtap_150 FIND V(tap_i3_u) AT=150
.meas DC i3_u_vin_150 FIND V(inp_i3_u) AT=150
.meas DC i3_u_iin_150 FIND I(Vi_i3_u) AT=150
.meas DC i3_u_vcc_150 FIND V(vcc_i3_u) AT=150
.meas DC i3_u_vee_150 FIND V(vee_i3_u) AT=150
.meas DC i5_p_vhv_50 FIND V(hv) AT=50
.meas DC i5_p_vtap_50 FIND V(tap_i5_p) AT=50
.meas DC i5_p_vin_50 FIND V(inp_i5_p) AT=50
.meas DC i5_p_iin_50 FIND I(Vi_i5_p) AT=50
.meas DC i5_p_vcc_50 FIND V(vcc_i5_p) AT=50
.meas DC i5_p_vee_50 FIND V(vee_i5_p) AT=50
.meas DC i5_p_vhv_120 FIND V(hv) AT=120
.meas DC i5_p_vtap_120 FIND V(tap_i5_p) AT=120
.meas DC i5_p_vin_120 FIND V(inp_i5_p) AT=120
.meas DC i5_p_iin_120 FIND I(Vi_i5_p) AT=120
.meas DC i5_p_vcc_120 FIND V(vcc_i5_p) AT=120
.meas DC i5_p_vee_120 FIND V(vee_i5_p) AT=120
.meas DC i5_p_vhv_150 FIND V(hv) AT=150
.meas DC i5_p_vtap_150 FIND V(tap_i5_p) AT=150
.meas DC i5_p_vin_150 FIND V(inp_i5_p) AT=150
.meas DC i5_p_iin_150 FIND I(Vi_i5_p) AT=150
.meas DC i5_p_vcc_150 FIND V(vcc_i5_p) AT=150
.meas DC i5_p_vee_150 FIND V(vee_i5_p) AT=150
.meas DC i5_u_vhv_50 FIND V(hv) AT=50
.meas DC i5_u_vtap_50 FIND V(tap_i5_u) AT=50
.meas DC i5_u_vin_50 FIND V(inp_i5_u) AT=50
.meas DC i5_u_iin_50 FIND I(Vi_i5_u) AT=50
.meas DC i5_u_vcc_50 FIND V(vcc_i5_u) AT=50
.meas DC i5_u_vee_50 FIND V(vee_i5_u) AT=50
.meas DC i5_u_vhv_120 FIND V(hv) AT=120
.meas DC i5_u_vtap_120 FIND V(tap_i5_u) AT=120
.meas DC i5_u_vin_120 FIND V(inp_i5_u) AT=120
.meas DC i5_u_iin_120 FIND I(Vi_i5_u) AT=120
.meas DC i5_u_vcc_120 FIND V(vcc_i5_u) AT=120
.meas DC i5_u_vee_120 FIND V(vee_i5_u) AT=120
.meas DC i5_u_vhv_150 FIND V(hv) AT=150
.meas DC i5_u_vtap_150 FIND V(tap_i5_u) AT=150
.meas DC i5_u_vin_150 FIND V(inp_i5_u) AT=150
.meas DC i5_u_iin_150 FIND I(Vi_i5_u) AT=150
.meas DC i5_u_vcc_150 FIND V(vcc_i5_u) AT=150
.meas DC i5_u_vee_150 FIND V(vee_i5_u) AT=150
.meas DC v1b_p_vhv_50 FIND V(hv_v1b_p) AT=50
.meas DC v1b_p_vtap_50 FIND V(tap_v1b_p) AT=50
.meas DC v1b_p_vin_50 FIND V(inp_v1b_p) AT=50
.meas DC v1b_p_iin_50 FIND I(Vi_v1b_p) AT=50
.meas DC v1b_p_vcc_50 FIND V(vcc_v1b_p) AT=50
.meas DC v1b_p_vee_50 FIND V(vee_v1b_p) AT=50
.meas DC v1b_p_vhv_120 FIND V(hv_v1b_p) AT=120
.meas DC v1b_p_vtap_120 FIND V(tap_v1b_p) AT=120
.meas DC v1b_p_vin_120 FIND V(inp_v1b_p) AT=120
.meas DC v1b_p_iin_120 FIND I(Vi_v1b_p) AT=120
.meas DC v1b_p_vcc_120 FIND V(vcc_v1b_p) AT=120
.meas DC v1b_p_vee_120 FIND V(vee_v1b_p) AT=120
.meas DC v1b_p_vhv_150 FIND V(hv_v1b_p) AT=150
.meas DC v1b_p_vtap_150 FIND V(tap_v1b_p) AT=150
.meas DC v1b_p_vin_150 FIND V(inp_v1b_p) AT=150
.meas DC v1b_p_iin_150 FIND I(Vi_v1b_p) AT=150
.meas DC v1b_p_vcc_150 FIND V(vcc_v1b_p) AT=150
.meas DC v1b_p_vee_150 FIND V(vee_v1b_p) AT=150
.meas DC v1b_u_vhv_50 FIND V(hv_v1b_u) AT=50
.meas DC v1b_u_vtap_50 FIND V(tap_v1b_u) AT=50
.meas DC v1b_u_vin_50 FIND V(inp_v1b_u) AT=50
.meas DC v1b_u_iin_50 FIND I(Vi_v1b_u) AT=50
.meas DC v1b_u_vcc_50 FIND V(vcc_v1b_u) AT=50
.meas DC v1b_u_vee_50 FIND V(vee_v1b_u) AT=50
.meas DC v1b_u_vhv_120 FIND V(hv_v1b_u) AT=120
.meas DC v1b_u_vtap_120 FIND V(tap_v1b_u) AT=120
.meas DC v1b_u_vin_120 FIND V(inp_v1b_u) AT=120
.meas DC v1b_u_iin_120 FIND I(Vi_v1b_u) AT=120
.meas DC v1b_u_vcc_120 FIND V(vcc_v1b_u) AT=120
.meas DC v1b_u_vee_120 FIND V(vee_v1b_u) AT=120
.meas DC v1b_u_vhv_150 FIND V(hv_v1b_u) AT=150
.meas DC v1b_u_vtap_150 FIND V(tap_v1b_u) AT=150
.meas DC v1b_u_vin_150 FIND V(inp_v1b_u) AT=150
.meas DC v1b_u_iin_150 FIND I(Vi_v1b_u) AT=150
.meas DC v1b_u_vcc_150 FIND V(vcc_v1b_u) AT=150
.meas DC v1b_u_vee_150 FIND V(vee_v1b_u) AT=150
.meas DC v2b_p_vhv_50 FIND V(hv_v2b_p) AT=50
.meas DC v2b_p_vtap_50 FIND V(tap_v2b_p) AT=50
.meas DC v2b_p_vin_50 FIND V(inp_v2b_p) AT=50
.meas DC v2b_p_iin_50 FIND I(Vi_v2b_p) AT=50
.meas DC v2b_p_vcc_50 FIND V(vcc_v2b_p) AT=50
.meas DC v2b_p_vee_50 FIND V(vee_v2b_p) AT=50
.meas DC v2b_p_vhv_120 FIND V(hv_v2b_p) AT=120
.meas DC v2b_p_vtap_120 FIND V(tap_v2b_p) AT=120
.meas DC v2b_p_vin_120 FIND V(inp_v2b_p) AT=120
.meas DC v2b_p_iin_120 FIND I(Vi_v2b_p) AT=120
.meas DC v2b_p_vcc_120 FIND V(vcc_v2b_p) AT=120
.meas DC v2b_p_vee_120 FIND V(vee_v2b_p) AT=120
.meas DC v2b_p_vhv_150 FIND V(hv_v2b_p) AT=150
.meas DC v2b_p_vtap_150 FIND V(tap_v2b_p) AT=150
.meas DC v2b_p_vin_150 FIND V(inp_v2b_p) AT=150
.meas DC v2b_p_iin_150 FIND I(Vi_v2b_p) AT=150
.meas DC v2b_p_vcc_150 FIND V(vcc_v2b_p) AT=150
.meas DC v2b_p_vee_150 FIND V(vee_v2b_p) AT=150
.meas DC v2b_u_vhv_50 FIND V(hv_v2b_u) AT=50
.meas DC v2b_u_vtap_50 FIND V(tap_v2b_u) AT=50
.meas DC v2b_u_vin_50 FIND V(inp_v2b_u) AT=50
.meas DC v2b_u_iin_50 FIND I(Vi_v2b_u) AT=50
.meas DC v2b_u_vcc_50 FIND V(vcc_v2b_u) AT=50
.meas DC v2b_u_vee_50 FIND V(vee_v2b_u) AT=50
.meas DC v2b_u_vhv_120 FIND V(hv_v2b_u) AT=120
.meas DC v2b_u_vtap_120 FIND V(tap_v2b_u) AT=120
.meas DC v2b_u_vin_120 FIND V(inp_v2b_u) AT=120
.meas DC v2b_u_iin_120 FIND I(Vi_v2b_u) AT=120
.meas DC v2b_u_vcc_120 FIND V(vcc_v2b_u) AT=120
.meas DC v2b_u_vee_120 FIND V(vee_v2b_u) AT=120
.meas DC v2b_u_vhv_150 FIND V(hv_v2b_u) AT=150
.meas DC v2b_u_vtap_150 FIND V(tap_v2b_u) AT=150
.meas DC v2b_u_vin_150 FIND V(inp_v2b_u) AT=150
.meas DC v2b_u_iin_150 FIND I(Vi_v2b_u) AT=150
.meas DC v2b_u_vcc_150 FIND V(vcc_v2b_u) AT=150
.meas DC v2b_u_vee_150 FIND V(vee_v2b_u) AT=150
.options plotwinsize=0
* --- added in Sim 7: R30 dissipation (W) and voltage across R30 at 150 V ---
.meas DC v2n_p_pr30_150 FIND I(Vi_v2n_p)*I(Vi_v2n_p)*R30V AT=150
.meas DC v2n_p_vr30_150 FIND V(tap_v2n_p)-V(pin_v2n_p) AT=150
.meas DC v2n_u_pr30_150 FIND I(Vi_v2n_u)*I(Vi_v2n_u)*R30V AT=150
.meas DC v2n_u_vr30_150 FIND V(tap_v2n_u)-V(pin_v2n_u) AT=150
.meas DC v2w_p_pr30_150 FIND I(Vi_v2w_p)*I(Vi_v2w_p)*R30V AT=150
.meas DC v2w_p_vr30_150 FIND V(tap_v2w_p)-V(pin_v2w_p) AT=150
.meas DC v2w_u_pr30_150 FIND I(Vi_v2w_u)*I(Vi_v2w_u)*R30V AT=150
.meas DC v2w_u_vr30_150 FIND V(tap_v2w_u)-V(pin_v2w_u) AT=150
.meas DC i5_p_pr30_150 FIND I(Vi_i5_p)*I(Vi_i5_p)*R30V AT=150
.meas DC i5_p_vr30_150 FIND V(tap_i5_p)-V(pin_i5_p) AT=150
.meas DC i5_u_pr30_150 FIND I(Vi_i5_u)*I(Vi_i5_u)*R30V AT=150
.meas DC i5_u_vr30_150 FIND V(tap_i5_u)-V(pin_i5_u) AT=150
.meas DC v2b_p_pr30_150 FIND I(Vi_v2b_p)*I(Vi_v2b_p)*R30V AT=150
.meas DC v2b_p_vr30_150 FIND V(tap_v2b_p)-V(pin_v2b_p) AT=150
.meas DC v2b_u_pr30_150 FIND I(Vi_v2b_u)*I(Vi_v2b_u)*R30V AT=150
.meas DC v2b_u_vr30_150 FIND V(tap_v2b_u)-V(pin_v2b_u) AT=150
.end
